US07820704B2
[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-[2-(1H-tetrazol-5-yl)-ethyl]-thiophen-2-ylmethyl-amine was prepared following general procedure H using 3-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionitrile (278 mg, 0.756 mmol), sodium azide (657 mg, 99%, 10 mmol), ammonium chloride (535 mg, 10 mmol) and DMF (3 mL). Purification by flash chromatography (ethyl acetate/hexanes 1:1, with 0.5% v/v acetic acid) gave the product compound (110 g, 0.268 mmol).

reactant | 3-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionitrile | 0.756 mmol, 278 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CCC#N)CC=1SC=CC1 | C20H21N3S2
reactant | sodium azide | 10 mmol, 657 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 10 mmol, 535 mg | [Cl-].[NH4+]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [4-(4-Isopropyl-phenyl)-thiazol-2-yl]-[2-(1H-tetrazol-5-yl)-ethyl]-thiophen-2-ylmethyl-amine | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CC=1SC=CC1)CCC1=NN=NN1 | C20H22N6S2
